US04920131
A mixture of 10.8 g (0.1 mol) of o-cresol, 18.1 g (0.1 mol) of ethyl 2-bromopropionate, and 14.5 g of K2CO3 in 50 ml of DMF is heated at 70° C. for 3 days. The reaction mixture is poured into H2O, and extracted with ethyl acetate. The organic solution is dried and evaporated to give ethyl 2-(2-methylphenoxy)propionate which is used directly in the next step.

reactant | o-cresol | 0.1 mol, 10.8 g | C1(=CC=CC=C1O)C | C7H8O
reactant | ethyl 2-bromopropionate | 0.1 mol, 18.1 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | K2CO3 | 14.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(2-methylphenoxy)propionate | CC1=C(OC(C(=O)OCC)C)C=CC=C1 | C12H16O3
